US05968952
4-Chlorobenzoic acid (21.23 g) and 3,4-dihydro-4-phenyl-2(1H)-quinolinone (15 g) were heated in polyphosphoric acid (150 g) at 140° C. for 24 hours. The mixture was poured into ice water and filtered off. The precipitate was taken up in DCM. The organic layer was washed with NaHCO3 (10%) and water, dried (MgSO4) and evaporated. The residue was crystallized from 2-propanone, yielding 12.34 g (50%) of (±)-6-(4-chlorobenzoyl)-3,4-dihydro-4-phenyl-2(1H)-quinolinone; mp. 204° C. (interm. 2-a).

reactant | 4-Chlorobenzoic acid | 21.23 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | 3,4-dihydro-4-phenyl-2(1H)-quinolinone | 15 g | C1(=CC=CC=C1)C1CC(NC2=CC=CC=C12)=O | C15H13NO
product | (±)-6-(4-chlorobenzoyl)-3,4-dihydro-4-phenyl-2(1H)-quinolinone | 12.34 g, 50% | ClC1=CC=C(C(=O)C=2C=C3C(CC(NC3=CC2)=O)C2=CC=CC=C2)C=C1 | C22H16ClNO2
